US05663154
2-Chloro-6-methylamino-9H-purine (0.48 g 2.6 moles) and 2',3'-dideoxy-3'-fluorouridine (0.50 g, 2.2 mmoles) were suspended in 50 ml 10 mM potassium phosphate buffer, pH 7.0, containing 0.04% potassium azide. Purine nucleoside phosphorylase (1120 I.U.). and thymidine phosphorylase (10,000 I.U.) (Krenitsky, et al., Biochemistry, 20, 3615, 1981 and U.S. Pat. No. 4,381,344) immobilized on DEAE cellulose was added and the suspension was stirred at 45° C. After 9 days, 100 ml MeOH was added to the reaction mixture. The resulting mixture was filtered through Celite. The filtrate was flash chromatographed on silica gel (2.5×20 cm) with dichloromethane:methanol (96:4). Solvent was removed and lyophilization yielded 0.117 g of 2-chloro-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-(methylamino)-9H-purine (18%): mp 181°-182° C.; TLC Rf 0.70 (silica ge, MeCN:15N NH4OH:H2O/85:5:10); [α]D20 -18.6 (c=0.5, DMF); UV λmax (ε×10-3) at pH 7, 269 (17.6); at pH 13, 269 (16.8); 1H NMR (400 MHz, DMSO-d6) δ8.35 (s, 1H, H8), 8.32 (b, 1H, NH), 6.30 (dd, 1H, H1', J=9.1 Hz, J=5.7 Hz), 5.41 (dd, 1H, H3', J=53.5 Hz, J=4.1 Hz), 5.16 (t, 1H, OH5', J=5.7 Hz), 4.16-4.24 (m, 1H, H4'), 3.57 (t, 2H, H5' and H5", J=5.2 Hz), 2.83-3.00 (m, 4H, NCH3 and H2') and 2.60-2.73 (m, 1H, H2"); MS (ci) 302 (M+1), 282 (M-F), 184 (MH2 --C5H8FO2).

reactant | 2-Chloro-6-methylamino-9H-purine | 2.6 moles, 0.48 g | ClC1=NC(=C2N=CNC2=N1)NC | C6H6ClN5
reactant | 2',3'-dideoxy-3'-fluorouridine | 2.2 mmoles, 0.50 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C=C1 | C9H11FN2O4
reactant | potassium azide | [N-]=[N+]=[N-].[K+]
reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | potassium phosphate | 10 mM, 50 ml | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | MeOH | 100 ml | CO | CH4O
product | 2-chloro-9-(2,3-dideoxy-3-fluoro-β-D-erythro-pentofuranosyl)-6-(methylamino)-9H-purine | 0.117 g, 18% | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C[C@@H]([C@H](O1)CO)F)NC | C11H13ClFN5O2
